US06974806B2
Synthesis of [7-chloro-2-oxo-4-phenyl-6-[(4-phenylpiperazin-1-yl)methyl]-2H-chromen-3-yl]acetic acid
Ethyl [7-chloro-2-oxo-4-phenyl-6-[(4-phenylpiperazin-1-yl)methyl]-2H-chromen-3-yl]acetate.hydrochloride (40 g) was suspended in ethanol (120 ml), and combined with a 2 N aqueous solution of sodium hydroxide (144.5 ml). A yellow clear solution obtained by stirring at 70° C. for 1 hour was added dropwise to a mixture solution of ethanol (40 ml) and 6 N hydrochloric acid (49.4 ml) over 45 minutes. The reaction solution was adjusted to pH 5.5 to 6.0 with sodium hydrogen carbonate at 40° C. After pH became stable, the mixture was stirred at 35 to 40° C. internal temperature for 15 minutes, and cooled to room temperature, and stirred at room temperature for 30 minutes. The crystal formed was filtered and washed with 30% ethanol to obtain the title compound (34 g, yield: 96%) as a white crystal.

reactant | Ethyl [7-chloro-2-oxo-4-phenyl-6-[(4-phenylpiperazin-1-yl)methyl]-2H-chromen-3-yl]acetate.hydrochloride | 40 g | Cl.ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)OCC)C1=CC=CC=C1)CN1CCN(CC1)C1=CC=CC=C1
reactant | sodium hydroxide | 144.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 N, 49.4 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | [7-chloro-2-oxo-4-phenyl-6-[(4-phenylpiperazin-1-yl)methyl]-2H-chromen-3-yl]acetic acid | 34 g, yield: 96% | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)O)C1=CC=CC=C1)CN1CCN(CC1)C1=CC=CC=C1 | C28H25ClN2O4
